US05859044
5-(2-Methyl-[1,3]dioxolan-2-ylmethyl)-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid Ethyl Ester
A solution of 1-(4-nitro-benzyl)-5-(2-oxo-propyl)-1H-indole-2-carboxylic acid ethyl ester (1.91 g, 5.03 mmol), ethylene glycol (406 mg, 0.365 ml, 6.54 mmol), and p-toluenesulfonic acid monohydrate (110 mg, 0.58 mmol) in toluene (50 ml) was heated to about 150° C. under a Dean-Stark trap under nitrogen for two hours. The solution was cooled, diluted with ethyl acetate, washed with dilute sodium bicarbonate and brine, dried over sodium sulfate, filtered, and dried under reduced pressure to give the title compound in crude form (2.4 g), which was reacted without further purification.

reactant | 1-(4-nitro-benzyl)-5-(2-oxo-propyl)-1H-indole-2-carboxylic acid ethyl ester | 5.03 mmol, 1.91 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC(C)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C21H20N2O5
reactant | ethylene glycol | 6.54 mmol, 0.365 ml, 406 mg | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.58 mmol, 110 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Methyl-[1,3]dioxolan-2-ylmethyl)-1-(4-nitro-benzyl)-1H-indole-2-carboxylic Acid Ethyl Ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC1(OCCO1)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C23H24N2O6
